US08957069B2
1-(4-Fluorophenyl)-4-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine
By using 5-bromo-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran (269 mg, 0.999 mmol) synthesized in Reference example 4 and 1-(4-fluorophenyl)piperazine (541 mg, 3.00 mmol), the reaction was carried out in the same manner as Example 21 to synthesize the title compound 100 mg (yield 27%). Melting point was 175 to 177° C. (hexane).

reactant | 5-bromo-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran | 0.999 mmol, 269 mg | BrC=1C(=C(C2=C(CC(O2)(C)C)C1C)C)C | C13H17BrO
reactant | 1-(4-fluorophenyl)piperazine | 3.00 mmol, 541 mg | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
product | 1-(4-Fluorophenyl)-4-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 100 mg, yield 27% | FC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(CC(O2)(C)C)C1C)C)C | C23H29FN2O
